US08003806B2
(3R)-3-(1H-Benzimidazol-1-yl)-3-phenylpropanoic acid
A solution of tert-butyl (3R)-3-(1H-benzimidazol-1-yl)-3-phenylpropanoate (92 mg, 285 μmol) in hydrochloric acid (20 mL of a 5N solution) was stirred at room temperature for 48 hours. The solution was then evaporated in vacuo to give a gum. Trituration of this residue with diethyl ether afforded the title compound, [LCMS (Method B, Mobile Phase I) RT=3.45 min, MH+ 267].

reactant | tert-butyl (3R)-3-(1H-benzimidazol-1-yl)-3-phenylpropanoate | 285 μmol, 92 mg | N1(C=NC2=C1C=CC=C2)[C@H](CC(=O)OC(C)(C)C)C2=CC=CC=C2 | C20H22N2O2
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | hydrochloric acid | Cl | ClH
product | (3R)-3-(1H-Benzimidazol-1-yl)-3-phenylpropanoic acid | N1(C=NC2=C1C=CC=C2)[C@H](CC(=O)O)C2=CC=CC=C2 | C16H14N2O2
